### ISSUE TITLE
RFC: rectangular weighted finite kernels and cut discrepancy

### ISSUE THREAD

**Issue by cameronfreer** [cameronfreer/regularity-lemmata#71]
Part of #66 (library-generality track). **Promoted to the main structural track.** The RFC settles the definitions; implementation follows in this issue's stated order, tracked here rather than in a separate tranche.

## Goal

Settle the definitions for rectangular weighted finite kernels and cut discrepancy **before** implementation. Judged as a general FK library, this is the largest omission: the canonical FK object is a rectangular matrix / bounded kernel (cf. Frieze–Kannan, *Quick Approximation to Matrices and Applications*), while the current theorem is Boolean, same-carrier, one partition on both coordinates. The definitions are important enough that they should not emerge incidentally inside a theorem proof.

## Decisions to settle

- Two carriers `W : α → β → ℝ` with `A : Finset α`, `B : Finset β` and **independent partitions** `P : Finpartition A`, `Q : Finpartition B`.
- Signed ℝ kernels under `|W a b| ≤ 1`.
- Normalized versus raw rectangle sums (`rectSum`; which is primitive, which derived).
- Empty-side conventions (empty parts, empty carriers, zero-mass rectangles).
- Left/right stepification as independent operations and their behavior under refinement on either coordinate.
- The Boolean same-carrier relationship: the existing `frieze_kannan` surface must be recoverable **as a discrepancy conclusion**, explicitly *not* with its complexity bound (see the gate below). `IsUniformPair` (`RegularityLemmata/Graph/Uniformity.lean`) is a candidate to move down to `Finite`, since it depends only on pair density and finsets.

### Added decisions (structural track)

These five were not in the original RFC and must be settled before it closes.

- **Carrier weights on both sides, not only a weighted kernel value.** Each carrier gets its own nonnegative weight function, so mass is `∑ a ∈ A, wₐ a` rather than `#A`. A weighted kernel over unweighted carriers is the special case where both weights are `1`; the converse is not available, and downstream stable and counting arguments need the weighted carriers.
- **Restriction to subcarriers.** Restricting `W` to `A' ⊆ A`, `B' ⊆ B` must be a first-class operation with its own rectangle-sum and cut-discrepancy lemmas, not something a consumer re-derives. Fix how carrier weights restrict and what the empty-subcarrier conventions are.
- **`W.op y x = W x y`.** An explicit opposite kernel swapping the two carriers, with `rectSum`, cut discrepancy, and stepification transported across it. This is what keeps left and right statements from being duplicated by hand.
- **Independent left/right partitions and stepification.** `P : Finpartition A` and `Q : Finpartition B` vary independently; left stepification and right stepification are separate operations that commute, and refinement on one coordinate must not disturb the other's statements.
- **Uniform-counting specialization back to the current Boolean FK setting.** The path from the rectangular weighted statement to the same-carrier Boolean *discrepancy conclusion* must be spelled out concretely at uniform carrier weights. It is an **API-compatibility** test, not a quantitative one: the complexity bound it yields is strictly weaker than the existing theorem's (see the gate).

### The same-carrier specialization gate — **the real hard stop, and it clears**

The rectangular theorem returns *independent* partitions `P` and `Q`; the existing Boolean theorem wants one partition on both coordinates. Taking the common refinement is **not** automatically an exact cut-discrepancy specialization, so the mechanism has to be proved rather than assumed.

**Route 1, verified by spike.** Write `D = W − E[W | P×Q]`. Since `S×S` refines `P×Q`, the tower property gives `E[W|S×S] − E[W|P×Q] = E[D | S×S]`, hence

```
W − E[W|S×S] = D − E[D|S×S]
```

so the whole claim reduces to **cut-norm contraction of weighted conditional expectation**, `‖E[D|S×S‖_□ ≤ ‖D‖_□`, plus one triangle inequality. Both are now machine-checked:

- **Contraction** holds with constant `1`, not `2`. Stripped of partition bookkeeping it is the bilinear statement: if every **0/1** (cell-union) rectangle sum of the cell-pair matrix `xᵢⱼ` is within `ε`, then every `[0,1]`-weighted combination `∑ᵢⱼ cᵢdⱼxᵢⱼ` is within `ε`. The stepped rectangle sum is exactly such a combination, with `cᵢ, dⱼ` the relative masses of the test rectangle inside each cell.
- The proof needs **no extreme-point machinery**: `cᵢ·yᵢ ≤ max yᵢ 0` pointwise, and the maximizing 0/1 choice is `filter (0 ≤ y ·)` — a genuine cell-union rectangle. Two applications, one per coordinate.
- **The factor 2 is the triangle step alone**, `|D − E[D|S×S]| ≤ |D| + |E[D|S×S]| ≤ 2ε`. So running the rectangular theorem at `ε/2` is the correct specialization recipe.
- The relative-mass weights land in `[0,1]` **guard-free** — on a zero-mass cell the quotient is `0/0 = 0` — which is consistent with the zero-block-mass convention below and needs no positivity hypothesis.

**The specialization is qualitative, not quantitative.** The common refinement `S` has at most `#P · #Q` parts, so the same-carrier route inherits the *product* of the two sides' bounds, each evaluated at `ε/2`. **Single-exponential dependence on `1/ε²` is preserved; the existing `4^t` bound is not recovered**, because `t` is evaluated at `ε/2` and the two factors then multiply. Saying "the same `4^t` bound" would be wrong.

So the boundary is:

- the **existing same-carrier Boolean theorem is kept as the sharper direct summit**, quantitatively independent of this track and not superseded by it;
- the rectangular route provides **API compatibility** — the same discrepancy conclusion, with an explicitly weaker complexity bound;
- a **synchronized same-carrier weighted-kernel theorem**, which would recover a sharp constant at full weighted generality, is deliberately **not** in scope here. It gets its own issue if and when that generality is needed.

This is also the concrete reason the freeze below requires separate left/right part-count bounds rather than only their product: the product is where the sharpness is lost, and a consumer must be able to see the two factors.

### Style constraint (binding)

Follow the repository's existing convention: **raw nonnegative weight functions and total masses, with probability normalization derived**. Do **not** introduce a new probability-measure structure. The existing mass-weighted energy, `pairDensity`, and the relational weight machinery all work this way, and a measure layer would fork the library.

## Substrate shape (corrections, binding)

**One raw-weight calculus; counting and probability specializations are derived.** Do not build parallel unweighted, normalized-probability, and weighted APIs and then reconcile them later.

### Carrier weights are in the primitive, not added afterwards

```lean
abbrev RectKernel (X Y : Type*) := X → Y → ℝ          -- unbundled; bounds are hypotheses

def finsetMass (w : X → ℝ) (A : Finset X) : ℝ := ∑ x ∈ A, w x

def rectSum (f : RectKernel X Y) (wX : X → ℝ) (wY : Y → ℝ)
    (A : Finset X) (B : Finset Y) : ℝ := ∑ x ∈ A, ∑ y ∈ B, wX x * wY y * f x y

def rectAverage (f) (wX) (wY) (A) (B) : ℝ :=
  rectSum f wX wY A B / (finsetMass wX A * finsetMass wY B)
```

An unweighted `rectSum f A B` is only the uniform-counting specialization and must be a **wrapper** at `wX = wY = 1`, not the primitive. This is load-bearing in four places: partition formulas use **cell masses, not cardinals**; restriction preserves raw weights; the rescaling test is meaningful at all; and zero-mass cells implement the frozen guard-free convention. Getting it wrong means the FK theorem later needs a second weighted API.

Bundling boundedness into the kernel would make addition, subtraction, indicators, and restriction awkward — keep `RectKernel` an unbundled alias and express bounds as predicates or hypotheses.

### Signed and interval boundedness are different predicates

The FK theorem handles **signed** residuals, so a single "unit bounded" name would conflate two things:

```lean
def IsIccBoundedOnRectangle (f) (a b : ℝ) (A) (B) : Prop := ∀ x ∈ A, ∀ y ∈ B, f x y ∈ Set.Icc a b
def IsAbsBoundedOnRectangle (f) (C : ℝ) (A) (B) : Prop := ∀ x ∈ A, ∀ y ∈ B, |f x y| ≤ C
abbrev IsUnitIntervalOnRectangle f A B := IsIccBoundedOnRectangle f 0 1 A B
abbrev IsAbsUnitBoundedOnRectangle f A B := IsAbsBoundedOnRectangle f 1 A B
```

Relation indicators use the first; signed kernels and residuals use the second.

### One transpose name

Use `RectKernel.op`, the name already frozen above. Do not also introduce `flip` unless a consumer demonstrably needs the alias.

### Relation indicators

`relationKernel R := fun x y => if R x y then 1 else 0`, with `rectSum (relationKernel R) 1 1 A B = pairCount R A B` and the density counterpart. **Arrange imports so the kernel layer does not depend on `PairDensity`** — the bridges are stated in whichever direction keeps that acyclic.

### Denominator-free partition identity, weighted

```
rectAverage f wX wY A B * (finsetMass wX A * finsetMass wY B)
  = ∑ C ∈ P.parts, ∑ D ∈ Q.parts,
      rectAverage f wX wY C D * (finsetMass wX C * finsetMass wY D)
```

Correct for empty and zero-mass rectangles; the usual weighted-average form is derived under nonemptiness. Prove the base result for arbitrary pairwise-disjoint finite covers, with concise `Finpartition` wrappers on top. Nonnegative carrier weights are load-bearing for the zero-total-mass case.

Restriction perturbation should likewise be stated in **multiplication form**, with the right-hand side depending explicitly on the bound on `|f|` and the discarded portions of each side. Do not claim fixed-error monotonicity under arbitrary restriction.

## Implementation order (after the RFC closes)

1. **Rectangular kernel core** (`Finite/RectKernel.lean`) — `RectKernel`, raw carrier masses, weighted `rectSum`/`rectAverage`, the algebra (zero, constants, add, sub, smul, neg), `op`, pullback, subtype restriction, the local boundedness predicates, pointwise bounds, and `relationKernel`. **No partitions, energy, or iteration yet.**
1b. **Weighted rectangular partitions and variance** — arbitrary disjoint-cover decomposition, `Finpartition` wrappers, left and right stepification and their commutation, rectangular energy, and the parallel-axis / refinement-variance identities.
2. **`kernel_frieze_kannan_step`** — the rectangular weighted FK step theorem: one step partition pair with uniform cut discrepancy. **More urgent than the decomposition**, because downstream stable regularity consumes the step, not the decomposition.
3. **`kernel_frieze_kannan_cutDecomposition`** — a bounded kernel as a sum of `O(ε⁻²)` weighted rectangle indicators plus a residual of cut norm at most `ε`, recorded during the greedy residual iteration rather than forced through the partition theorem.

Downstream coverage once implemented: bipartite graphs without disjoint-union encoding, signed matrices and residuals, weighted graphs, differences of two graphs, adjacency between distinct vertex classes, graphon discretizations.

## Existing declarations consumed

- `RegularityLemmata/Graph/FriezeKannan.lean` (current Boolean surface), `RegularityLemmata/Graph/Uniformity.lean`.

## Details to freeze in the design document

- **Raw weighted rectangle sum is primitive**; average and normalized discrepancy are derived from it.
- **Kernel boundedness is required only on `A ×ˢ B`**, not globally — the bound is a hypothesis about the carriers in play, not about `W` as a function.
- **Restriction preserves raw weights**; it does not silently renormalize them.
- **Zero-total-mass and zero-block-mass averages are `0`** (the library's guard-free convention; the gate spike confirms the relative masses stay in `[0,1]` under it).
- **State separate left/right part-count bounds**, not only their product — see the specialization consequence above.
- **Positive rescaling of either carrier weight** scales the raw discrepancy and leaves the normalized energy unchanged.
- **`op` is involutive** and exchanges every left/right construction.
- **Left and right stepification commute.**
- **Prefer a stepped predicted-sum definition** over a total pointwise kernel, unless a total kernel comes with a clean outside-support convention.

## Acceptance criteria

- **RFC stage:** a design document under `docs/design/` fixing every decision above, including the five added ones, with the uniform-counting specialization path to the current Boolean theorem spelled out concretely.
- **Implementation stage:** items 1 and 2 of the order above. The Boolean *discrepancy conclusion* is recovered via the route-1 adapter (common refinement, rectangular summit called at `ε/2`); the existing theorem's complexity bound is **not** claimed and the existing theorem stays as the sharper direct summit. Item 3 may follow separately.
- **Gate tests**, each pinned: contraction at constant `1` (not `2`); the `[0,1]` weights admissible guard-free with no positive-mass hypothesis; the triangle constant `2`; separate left and right part-count bounds exposed, with the same-carrier product bound derived from them rather than primitive; `op` involutive; left and right stepification commuting; and rescaling a carrier weight leaving normalized energy fixed.

## Non-goals

- Tensor/box FK, which stays gated in the epic until the step theorem lands.

## Dependencies and hard stops

None; blocks the weighted-weak-regularity tranche. **The hard stop was the same-carrier specialization gate above, and it cleared** — the mechanism is proved, not assumed. The residual gap is quantitative rather than structural, and is resolved by *keeping* the existing same-carrier theorem rather than by replacing it. A synchronized same-carrier weighted-kernel summit, which would give a sharp constant at full weighted generality, is a separate future issue.

## Documentation effect

`docs/design/` while open (this is the RFC itself). Generic side lemmas go to #54.

**Comment by cameronfreer** [comment]
**Tranche 1 landed** as #88 (`00383c0`). This issue stays open — #88 completes only the kernel core, not #71.

Delivered, in the diamond `PairDensity ─┐├→ RelationKernel ┌─ RectKernel` with neither core depending on the other:

- `Finite/Weight.lean` — `finsetMass`, `weightedSum`, and the raw-mass identities, placed **below** `RectKernel` so #83's box layer can reuse masses without importing kernels.
- `Finite/RectKernel.lean` — `RectKernel` as an unbundled alias; weighted `rectSum` as the primitive with `rectAverage` and the uniform-counting wrappers derived; the algebra; `op` with involutivity and transport; `pullback`; subtype `restrict` of kernel and weights; `IsIccBoundedOnRectangle` / `IsAbsBoundedOnRectangle` with the two abbreviations; and the estimates.
- `Finite/RelationKernel.lean` — indicators, their `[0,1]` and absolute bounds, and the `pairCount` / `pairDensity` bridges.

All five traps are pinned by the statements rather than by comments: `rectAverage_const` takes positive mass on both sides (with a test exhibiting a nonempty all-zero-weight rectangle whose average is `0`); general interval preservation takes positive mass while `[0,1]` and `[-C,C]` are guard-free because those intervals contain `0`; absolute estimates carry nonnegative-weight hypotheses; no sum transport along arbitrary maps is claimed; and `restrict` does not renormalize.

`scripts/check.sh` green: 2526 declarations, standard axioms only.

**Still open for #71**: tranche 4 (weighted rectangular partitions, stepification, energy, and the variance identities), tranche 5 (`kernel_frieze_kannan_step` and the same-carrier adapter), and tranche 9 (`kernel_frieze_kannan_cutDecomposition`).

**Comment by cameronfreer** [comment]
## Tranche 5 plan — file split, frozen constants, and the gate spike preserved

Tranche 4 is complete (#90 decomposition/stepification, #94 energy + parallel-axis). Tranche 5 is
the rectangular Frieze–Kannan step, split into **two files**:

**`RegularityLemmata/Partition/RectKernelCut.lean`** — cut discrepancy, contraction of the stepping
operator, and the common-refinement adapter.

**`RegularityLemmata/Partition/RectKernelFriezeKannan.lean`** — the energy-increment iteration and
the separate left/right complexity bounds.

### Frozen constants (from the route-1 gate, machine-checked below)

- contraction constant **1** — not 2; conditional expectation onto a refining pair is a genuine
  cut-norm contraction, with no extreme-point machinery;
- triangle constant **2**;
- the adapter calls the rectangular step at **`ε/2`**;
- part-count bounds are stated **separately for the left and right partitions**.

### Preservation contract

The existing Boolean same-carrier Frieze–Kannan theorem stays **unchanged** and remains the sharper
direct summit. The new adapter recovers only its **discrepancy conclusion**, with the weaker bound
documented in `docs/design/rectangular-kernels.md`: single-exponential dependence is preserved, the
`4^t` bound is **not** recovered.

### The gate spike, verbatim

The decisive material below was verified during the #71 gate in a scratch file. It is transcribed
here so it is not lost, and it **moves into permanent source as part of tranche 5** — in particular
`abs_sum_bilinear_le` (contraction at constant 1) and `relMass_le_one` (the guard-free zero-mass
relative-weight test). Both compiled clean under the pre-migration toolchain; they will need a
re-check under Lean `v4.34.0-rc1` / Mathlib `de5ce8a`.

```lean
import Mathlib

/-!
# Spike: the same-carrier specialization gate for #71

Route 1 of the gate. The claim to test:

  if `S` refines both `P` and `Q`, then `cutDisc W S S ≤ 2 * cutDisc W P Q`.

Write `D = W - E[W | P×Q]`. Because `S×S` refines `P×Q`, the tower property gives
`E[W|S×S] - E[W|P×Q] = E[D | S×S]`, so

  `W - E[W|S×S] = D - E[D|S×S]`,

and the whole claim reduces to **cut-norm contraction of conditional expectation**:

  `‖E[D|S×S]‖_□ ≤ ‖D‖_□`.

That contraction is the load-bearing step, and it is what this file tests. Everything else
in route 1 is a triangle inequality.

The contraction reduces to a purely bilinear fact once the partition bookkeeping is done:
a stepped rectangle sum over cells is `∑ᵢⱼ cᵢ dⱼ xᵢⱼ` where `xᵢⱼ` is the cell-pair sum of
`D` and `cᵢ, dⱼ ∈ [0,1]` are the relative masses of the test rectangle inside each cell.
So the question is whether a `[0,1]`-weighted bilinear combination of the `xᵢⱼ` is bounded
by the sup over **0/1** combinations — i.e. over genuine cell-union rectangles.

`§1` proves that. `§2` checks the relative masses really do land in `[0,1]` guard-free, and
`§3` assembles the triangle step, so the constant `2` is machine-checked rather than
asserted.
-/

namespace CutSpike

open Finset

/-! ### §1 The bilinear heart -/

section Bilinear

variable {ι κ : Type*} [Fintype ι] [Fintype κ] [DecidableEq ι] [DecidableEq κ]

/-- A `[0,1]`-weighted sum is dominated by the sum over the nonnegative part — the 0/1
choice `cᵢ = 1 ↔ 0 ≤ yᵢ`. No extreme-point machinery: `cᵢ * yᵢ ≤ max yᵢ 0` pointwise. -/
theorem sum_mul_le_sum_filter_nonneg {c : ι → ℝ} (hc0 : ∀ i, 0 ≤ c i) (hc1 : ∀ i, c i ≤ 1)
    (y : ι → ℝ) : ∑ i, c i * y i ≤ ∑ i ∈ univ.filter (fun i => 0 ≤ y i), y i := by
  classical
  calc ∑ i, c i * y i
      ≤ ∑ i, max (y i) 0 := by
        refine Finset.sum_le_sum fun i _ => ?_
        rcases le_or_gt 0 (y i) with h | h
        · calc c i * y i ≤ 1 * y i := mul_le_mul_of_nonneg_right (hc1 i) h
            _ = y i := one_mul _
            _ ≤ max (y i) 0 := le_max_left _ _
        · calc c i * y i ≤ 0 := mul_nonpos_of_nonneg_of_nonpos (hc0 i) h.le
            _ ≤ max (y i) 0 := le_max_right _ _
    _ = ∑ i ∈ univ.filter (fun i => 0 ≤ y i), y i := by
        rw [Finset.sum_filter]
        refine Finset.sum_congr rfl fun i _ => ?_
        rcases le_or_gt 0 (y i) with h | h
        · rw [if_pos h, max_eq_left h]
        · rw [if_neg (not_le.mpr h), max_eq_right h.le]

/-- The mirror bound, with the 0/1 choice `cᵢ = 1 ↔ yᵢ < 0`. -/
theorem sum_filter_neg_le_sum_mul {c : ι → ℝ} (hc0 : ∀ i, 0 ≤ c i) (hc1 : ∀ i, c i ≤ 1)
    (y : ι → ℝ) : ∑ i ∈ univ.filter (fun i => y i < 0), y i ≤ ∑ i, c i * y i := by
  classical
  calc ∑ i ∈ univ.filter (fun i => y i < 0), y i
      = ∑ i, min (y i) 0 := by
        rw [Finset.sum_filter]
        refine Finset.sum_congr rfl fun i _ => ?_
        rcases lt_or_ge (y i) 0 with h | h
        · rw [if_pos h, min_eq_left h.le]
        · rw [if_neg (not_lt.mpr h), min_eq_right h]
    _ ≤ ∑ i, c i * y i := by
        refine Finset.sum_le_sum fun i _ => ?_
        rcases le_or_gt 0 (y i) with h | h
        · calc min (y i) 0 ≤ 0 := min_le_right _ _
            _ ≤ c i * y i := mul_nonneg (hc0 i) h
        · calc min (y i) 0 = y i := min_eq_left h.le
            _ = 1 * y i := (one_mul _).symm
            _ ≤ c i * y i := mul_le_mul_of_nonneg_right' (hc1 i) h.le
  where
    mul_le_mul_of_nonneg_right' {a b x : ℝ} (hab : a ≤ b) (hx : x ≤ 0) : b * x ≤ a * x :=
      mul_le_mul_of_nonpos_right hab hx

/-- **The contraction, in bilinear form.** If every 0/1 (cell-union) rectangle sum of `x` is
within `ε`, then so is every `[0,1]`-weighted bilinear combination.

This is exactly cut-norm contraction of conditional expectation, with the partition
bookkeeping stripped away: the stepped rectangle sum is such a combination, with the
weights the relative masses of the test rectangle inside each cell. -/
theorem abs_sum_bilinear_le {c : ι → ℝ} {d : κ → ℝ}
    (hc0 : ∀ i, 0 ≤ c i) (hc1 : ∀ i, c i ≤ 1)
    (hd0 : ∀ j, 0 ≤ d j) (hd1 : ∀ j, d j ≤ 1) (x : ι → κ → ℝ) {ε : ℝ}
    (hrect : ∀ (I : Finset ι) (J : Finset κ), |∑ i ∈ I, ∑ j ∈ J, x i j| ≤ ε) :
    |∑ i, c i * ∑ j, d j * x i j| ≤ ε := by
  classical
  -- Pushing a restricted outer sum through the inner weights.
  have hswap : ∀ I : Finset ι,
      ∑ i ∈ I, (∑ j, d j * x i j) = ∑ j, d j * (∑ i ∈ I, x i j) := by
    intro I
    rw [Finset.sum_comm]
    exact Finset.sum_congr rfl fun j _ => by rw [Finset.mul_sum]
  set y : ι → ℝ := fun i => ∑ j, d j * x i j with hy
  refine abs_le.mpr ⟨?_, ?_⟩
  · -- Lower bound: choose the negative parts on both sides.
    set I : Finset ι := univ.filter (fun i => y i < 0) with hI
    have h1 : ∑ i ∈ I, y i ≤ ∑ i, c i * y i :=
      sum_filter_neg_le_sum_mul hc0 hc1 y
    set z : κ → ℝ := fun j => ∑ i ∈ I, x i j with hz
    set J : Finset κ := univ.filter (fun j => z j < 0) with hJ
    have h2 : ∑ j ∈ J, z j ≤ ∑ j, d j * z j :=
      sum_filter_neg_le_sum_mul hd0 hd1 z
    have h3 : ∑ i ∈ I, y i = ∑ j, d j * z j := by rw [hy, hswap I]
    have h4 : ∑ j ∈ J, z j = ∑ i ∈ I, ∑ j ∈ J, x i j := by
      rw [hz]
      exact (Finset.sum_comm).symm
    have h5 : -ε ≤ ∑ i ∈ I, ∑ j ∈ J, x i j := (abs_le.mp (hrect I J)).1
    linarith [h1, h2, h3 ▸ h2, h4 ▸ h5]
  · -- Upper bound: choose the nonnegative parts on both sides.
    set I : Finset ι := univ.filter (fun i => 0 ≤ y i) with hI
    have h1 : ∑ i, c i * y i ≤ ∑ i ∈ I, y i :=
      sum_mul_le_sum_filter_nonneg hc0 hc1 y
    set z : κ → ℝ := fun j => ∑ i ∈ I, x i j with hz
    set J : Finset κ := univ.filter (fun j => 0 ≤ z j) with hJ
    have h2 : ∑ j, d j * z j ≤ ∑ j ∈ J, z j :=
      sum_mul_le_sum_filter_nonneg hd0 hd1 z
    have h3 : ∑ i ∈ I, y i = ∑ j, d j * z j := by rw [hy, hswap I]
    have h4 : ∑ j ∈ J, z j = ∑ i ∈ I, ∑ j ∈ J, x i j := by
      rw [hz]
      exact (Finset.sum_comm).symm
    have h5 : ∑ i ∈ I, ∑ j ∈ J, x i j ≤ ε := (abs_le.mp (hrect I J)).2
    linarith [h1, h2, h3, h4 ▸ h5]

end Bilinear

/-! ### §2 The weights really are in `[0,1]`, guard-free

The bilinear weights are relative masses `mass(S ∩ cell) / mass(cell)` for a nonnegative
weight function. The `[0,1]` bound must hold with **no** positive-mass hypothesis, since
the design freeze says zero-block-mass averages are `0`. -/

section Weights

variable {α : Type*} [Fintype α] [DecidableEq α]

/-- Relative mass of `S` inside a cell, guard-free (`0` on a zero-mass cell). -/
noncomputable def relMass (w : α → ℝ) (S C : Finset α) : ℝ :=
  (∑ a ∈ S ∩ C, w a) / (∑ a ∈ C, w a)

theorem relMass_nonneg {w : α → ℝ} (hw : ∀ a, 0 ≤ w a) (S C : Finset α) :
    0 ≤ relMass w S C :=
  div_nonneg (Finset.sum_nonneg fun a _ => hw a) (Finset.sum_nonneg fun a _ => hw a)

/-- Guard-free `≤ 1`: on a zero-mass cell the quotient is `0/0 = 0`, so no positivity
hypothesis is needed. -/
theorem relMass_le_one {w : α → ℝ} (hw : ∀ a, 0 ≤ w a) (S C : Finset α) :
    relMass w S C ≤ 1 := by
  classical
  rcases eq_or_lt_of_le (Finset.sum_nonneg (fun a (_ : a ∈ C) => hw a)) with h | h
  · rw [relMass, ← h, div_zero]
    norm_num
  · rw [relMass, div_le_one h]
    exact Finset.sum_le_sum_of_subset_of_nonneg Finset.inter_subset_right
      fun a _ _ => hw a

end Weights

/-! ### §3 The triangle step, and the constant

With contraction in hand the rest of route 1 is a triangle inequality on rectangle sums.
Stated abstractly on the three rectangle functionals involved: `D` is the residual against
the coarse pair, `DS` is its conditional expectation onto the fine same-carrier pair, and
`W - E[W|S×S] = D - DS` pointwise, hence rectangle-wise by linearity. -/

section Triangle

variable {ρ : Type*}

/-- **The route-1 constant, machine-checked.** If every rectangle sum of the coarse residual
is within `ε`, and the stepped residual is within `ε` by contraction, then the fine
same-carrier residual — their difference — is within `2ε`.

This is where the factor `2` comes from, and it is the whole of route 1 beyond §1. -/
theorem abs_sub_le_two_mul {fD fDS : ρ → ℝ} {ε : ℝ}
    (hD : ∀ r, |fD r| ≤ ε) (hDS : ∀ r, |fDS r| ≤ ε) (r : ρ) :
    |fD r - fDS r| ≤ 2 * ε := by
  calc |fD r - fDS r| ≤ |fD r| + |fDS r| := abs_sub _ _
    _ ≤ ε + ε := add_le_add (hD r) (hDS r)
    _ = 2 * ε := by ring

end Triangle

/-! ### §4 Endpoint checks -/

section Tests

-- Contraction is not vacuous: at all-ones weights the bilinear sum IS a rectangle sum.
example {ι κ : Type*} [Fintype ι] [Fintype κ] [DecidableEq ι] [DecidableEq κ]
    (x : ι → κ → ℝ) {ε : ℝ}
    (hrect : ∀ (I : Finset ι) (J : Finset κ), |∑ i ∈ I, ∑ j ∈ J, x i j| ≤ ε) :
    |∑ i, (1 : ℝ) * ∑ j, (1 : ℝ) * x i j| ≤ ε :=
  abs_sum_bilinear_le (fun _ => zero_le_one) (fun _ => le_rfl)
    (fun _ => zero_le_one) (fun _ => le_rfl) x hrect

-- Zero weights give zero, well inside the bound — the degenerate cell case.
example {ι κ : Type*} [Fintype ι] [Fintype κ] [DecidableEq ι] [DecidableEq κ]
    (x : ι → κ → ℝ) {ε : ℝ}
    (hrect : ∀ (I : Finset ι) (J : Finset κ), |∑ i ∈ I, ∑ j ∈ J, x i j| ≤ ε) :
    |∑ i, (0 : ℝ) * ∑ j, (0 : ℝ) * x i j| ≤ ε :=
  abs_sum_bilinear_le (fun _ => le_rfl) (fun _ => zero_le_one)
    (fun _ => le_rfl) (fun _ => zero_le_one) x hrect

-- The relative-mass weights are admissible input to the contraction, guard-free.
example {α : Type*} [Fintype α] [DecidableEq α] {w : α → ℝ} (hw : ∀ a, 0 ≤ w a)
    (S C : Finset α) : 0 ≤ relMass w S C ∧ relMass w S C ≤ 1 :=
  ⟨relMass_nonneg hw S C, relMass_le_one hw S C⟩

end Tests

end CutSpike
```

**Comment by cameronfreer** [comment]
## Tranche 5 progress — cut layer, and the frozen tower statement

Local branch `feat/rect-kernel-cut`, **not pushed**, seven commits, each typechecked:

| commit | contents |
| --- | --- |
| `f231844` | `abs_sum_bilinear_le` → `Finite/Inequalities.lean`; `relMass` + guard-free bounds → `Finite/Weight.lean` |
| `414fc97` | `rectError`, `rectCutDiscrepancy` + elimination `iff`, relMass bridge, **contraction at constant 1**, triangle factor 2 |
| `4dd1a34` | `rectError_op`, `rectCutDiscrepancy_op`, both rescaling theorems (conventions 6 and 7) |
| `cd63a18` | `sum_over_parts` in `Partition/Basic.lean`, generic over `AddCommMonoid`, with a falsification test for dropping `S ⊆ s` |
| `ab861d9` | `sum_part_mul_weight`, the weighted corollary — purely algebraic |
| `dd8a673` | `rectResidual` + outside-support convention |
| `59fe169` | `rectSum_rectResidual_eq_rectError`, the carrier-local bridge |

The full `check.sh` gate is **owed** before any push; only targeted builds have run since `414fc97`.

### The algebra / measure boundary

Everything through `59fe169` is algebra: no nonnegativity, no positive mass. Two tests pin this by
using **signed weights that cancel to zero total mass** — they would fail if anyone strengthened the
hypotheses. Conditional-expectation behaviour begins only at the tower.

### Frozen public tower statement

```
steppedRectSum (rectResidual f wX wY P Q) wX wY P' Q' S T
  = steppedRectSum f wX wY P' Q' S T - steppedRectSum f wX wY P Q S T
```

under `P' ≤ P`, `Q' ≤ Q`, `S ⊆ A`, `T ⊆ B`, and nonnegative weights on `A` and `B`.

**Internal shape.** The safe local unit is the **trace-mass-multiplied** fine-cell identity: for
`C' ⊆ C` and `D' ⊆ D`, prove the residual fine-cell average identity only after multiplying by
`finsetMass wX (S ∩ C') * finsetMass wY (T ∩ D')`. Zero-mass branch: nonnegativity plus monotonicity
kill the trace mass. Positive branch: cancellation is legitimate. Keep the helper **private** unless a
second consumer appears. Then regroup fine parts under coarse parents with the existing
`sum_over_parents`, which makes the last term exactly the coarse stepped prediction.

**Do not** expose or rely on an unmultiplied average identity between fine-cell averages — it fails
syntactically on zero-mass fine cells even though the mass-multiplied summands vanish.

**The `[1,0]` adversarial test** must use an actual *strict refinement* in which the zero-weight
singleton is a fine cell inside a positive-mass coarse cell, so it pins the refinement bookkeeping and
the zero-trace argument, not merely an arithmetic endpoint.

### Remaining after the tower

Derived error equality, the factor-2 transfer `rectCutDiscrepancy f P' Q' ≤ 2 * rectCutDiscrepancy f P Q`,
the `R = P ⊓ Q` specialization with the `ε/2 → ε` adapter, and `#R.parts ≤ #P.parts * #Q.parts` with
both input bounds kept visible. Then `Partition/RectKernelFriezeKannan.lean` (Frieze–Kannan 1999 cited
there) and one consolidated `PROVENANCE.md` entry once the summit lands.

**Comment by cameronfreer** [comment]
## Tranche 5, cut file complete — PR #104 (held for review)

`Partition/RectKernelCut.lean` is finished and pushed. `scripts/check.sh` green with the root import in place: **3054 declarations audited, standard axioms only**; GitHub CI green. Lean v4.34.0-rc1 / Mathlib de5ce8a.

The commit hashes in the previous tranche-5-progress comment are now inspectable on the branch.

### The tower identity landed as specified

```lean
theorem steppedRectSum_rectResidual (f : RectKernel X Y) (wX : X → ℝ) (wY : Y → ℝ)
    {P P' : Finpartition A} {Q Q' : Finpartition B} (hP : P' ≤ P) (hQ : Q' ≤ Q)
    (S : Finset X) (T : Finset Y)
    (hwX : ∀ x ∈ A, 0 ≤ wX x) (hwY : ∀ y ∈ B, 0 ≤ wY y) :
    steppedRectSum (rectResidual f wX wY P Q) wX wY P' Q' S T
      = steppedRectSum f wX wY P' Q' S T - steppedRectSum f wX wY P Q S T
```

Internally the only local unit is the **trace-mass-multiplied** fine-cell identity, kept private. An unmultiplied identity between fine-cell averages is *false* on a zero-mass fine cell — the guard-free residual average is `0/0 = 0` while the difference of averages need not vanish — so no such statement is exposed or relied on. The zero-mass branch is closed by nonnegativity plus monotonicity killing the trace mass; the positive branch cancels legitimately. Regrouping under coarse parents reuses the existing `sum_over_parents`.

### One deviation from the frozen spec

The frozen statement carried `S ⊆ A` and `T ⊆ B`. **They are provably unnecessary and are not in the signature.** A stepped sum ranges over cells, so points of `S` outside the carrier are invisible to *both* sides. The ordinary rectangle sum is different: it sees them, and there the residual equals `f` — which is exactly why `rectSum_rectResidual_eq_rectError` genuinely needs the hypothesis and the tower does not. The docstring states the contrast.

No derived result changed, since every consumer supplies the carrier hypotheses for its other inputs. But this widens theorem scope relative to the sanctioned design, so PR #104 is **held for review rather than merged** under the tranche autonomy rule.

### The adversarial test needed `[1, 0, 1]`, not `[1, 0]`

On two points with weights `[1, 0]` all the mass sits at a single point, so *every* partition has the same stepped sum and the identity degenerates to `0 = 0 - 0` — it would have tested nothing. A third weighted point keeps the zero-mass fine cell `{1}` inside a positive-mass coarse cell while making the coarse and fine stepped predictions genuinely differ.

The refinement is strict (`⊥ ≤ indiscrete`), and all three quantities are computed independently rather than derived from the theorem: residual `-1`, fine `0`, coarse `1`. So the test pins the refinement bookkeeping and the zero-trace branch, not an arithmetic endpoint.

### Derived surface

`rectError_rectResidual`, `rectCutDiscrepancy_le_two_mul` (factor **2**), left/right common-refinement inheritance, and the `ε/2` adapter — which packages the discrepancy conclusion together with the two part-count bounds kept **separate**, left inputs multiplying left and right multiplying right, reusing the existing `card_parts_inf_le`. The quantitative disclaimer is in the adapter docstring: it recovers the Boolean same-carrier summit's discrepancy conclusion, not its sharper complexity bound.

### The algebra/measure boundary held

Everything through the residual-to-error bridge is pure algebra — no nonnegativity, no positive mass, no division, `rectAverage` never unfolded. Nonnegativity enters at exactly one theorem, the tower, for exactly one reason: signed weights allow a zero-total-mass cell with a nonzero-mass trace inside it. Two tests with signed weights cancelling to zero total mass pin the algebraic side and will fail if anyone strengthens those hypotheses.

### Remaining in tranche 5

`Partition/RectKernelFriezeKannan.lean`: the energy-increment iteration and separate left/right complexity bounds, consuming 4c (`rectEnergyNum_eq_add_rectRefinementVarianceNum`) rather than rebuilding it, with the Frieze–Kannan 1999 citation and the three-way credit split. Then one consolidated `PROVENANCE.md` entry naming the rectangular-kernel modules, with `docs/design/rectangular-kernels.md` pointing there instead of growing its own bibliography.

**Comment by cameronfreer** [comment]
## Tranche 5 complete — but this issue stays open

`Partition/RectKernelFriezeKannan.lean` merged as #108 (`1efe10b`), following `Partition/RectKernelCut.lean` in #104. Gate on merged main: **3189 declarations, standard axioms only.** Lean v4.34.0-rc1 / Mathlib 77cbcbc.

**What landed is the step-partition summit.** Tranche 9's `kernel_frieze_kannan_cutDecomposition` — the cut-matrix decomposition interface — is **not** implemented, so this issue is deliberately left open. The provenance entry says so explicitly rather than implying the decomposition came along for the ride.

### The summit

- `rectFkIterate` — the **paired** energy-increment iteration. Each round cuts the left carrier by its witness set and the right by its, independently, so the two part-count bounds are carried side by side and never multiplied: `#P ≤ #P₀ · 2^t` and `#Q ≤ #Q₀ · 2^t`.
- `rect_frieze_kannan_refining` / `_cutDiscrepancy` — the seeded summit, with both bounds exposed separately.
- `rect_frieze_kannan_same_carrier` — the adapter, and **the only place a factor `4` appears**, as `2^t · 2^t`.

### The energy step

Three layers: `sq_rectError_le_mul_selectedVariance` (Cauchy–Schwarz against the selected variance), `selectedVariance_le_rectRefinementVarianceNum` (embedding into the full refinement variance), then `rectEnergyNum_add_le_of_lt_abs_rectError` consuming the tranche-4c primitive `rectEnergyNum_eq_add_rectRefinementVarianceNum` directly — no private substitute. `rectEnergy_add_le_of_lt_abs_rectError` is the normalized `ε²` corollary, and division is confined to it.

### Zero-mass discipline held

The child-minus-parent conversion is stated **only** mass-multiplied (`sq_rectAverage_rectResidual_mul_mass`): the unweighted equality is *false* on a zero-mass fine cell, where the guard-free residual average is `0/0 = 0`. Cancellation happens inside that proof under a locally established `mass ≠ 0`.

A witness **forces** positive total mass (`finsetMass_mul_pos_of_lt_abs_rectError`), for arbitrary `ε` — no positivity needed, since at zero total mass both threshold and error vanish. That is why neither increment theorem carries a positive-mass hypothesis.

### Hypothesis boundaries

The energy step needs nonnegative carrier weights only — **no** boundedness on `f`. Absolute unit boundedness enters solely in the iteration, via `rectEnergy_le_one`, to force termination.

### The Boolean summit is preserved as sharper

`Graph/FriezeKannan.lean` is untouched. It obtains `4 ^ (⌈1/ε²⌉₊ + 1)` **directly**; the adapter route pays `⌈4/ε²⌉₊ + 1` rounds because it calls at `ε/2`. Not superseded, not re-derived.

### Remaining on this issue

Tranche 9: `kernel_frieze_kannan_cutDecomposition`, the cut-matrix decomposition interface.

**Comment by cameronfreer** [comment]
Tranche 9 (`kernel_frieze_kannan_cutDecomposition`) starts with an audit/design PR, held for review before any theorem signature is frozen: #162 (`docs/design/cut-matrix-decomposition.md`). It audits the rectangular substrate and the FK summit against the decomposition, proposes the representation (a `Fin n`-indexed family of weighted rectangles), the partition-free cut norm and its bridge to `rectCutDiscrepancy` through `rectResidual`, the guarantee `rectCutNorm (f − Σ cₖ 𝟙_{Sₖ}⊗𝟙_{Tₖ}) ≤ ε·M` with `n ≤ ⌈1/ε²⌉₊` and `|cₖ| ≤ 1/ε`, the missing reusable lemmas, four implementation tranches, tests, and hard stops. Release placement is left to the approved design.

**Comment by cameronfreer** [comment]
The tranche-9 design document is merged (#162, `docs/design/cut-matrix-decomposition.md`) with the reviewer's corrections: explicit strict iteration invariant `Inv t` giving the `⌈1/ε²⌉₊` budget with no `+ 1`, the signed-weight decrement identities by the `d = 0` / `d ≠ 0` split beside `rectIndicator` in `Finite/RelationKernel` (no import cycle), partition-free declarations placed in `Finite` modules with `rectBlockEnergy` relocated, and quantitative tests that force behaviour. Interface frozen as specified there. Implementation begins with substrate tranche 1 after #163 / v0.10.0 ships; release number for the campaign remains undecided.

**Comment by cameronfreer** [comment]
Substrate tranche 1 merged as #167 (squash `bdc96f0`): `rectSqMass`, the partition-free witness lemma `finsetMass_mul_pos_of_lt_abs_rectSum` (from which the partition version is now derived), `rectBlockEnergy` relocated to `Finite/RectKernel`, and `rectIndicator`/`rectCombination` in `Finite/RelationKernel`. Tranche 2 (the partition-free cut norm `rectCutNorm` in a new `Finite/RectKernelCutNorm` module and its bridge to `rectCutDiscrepancy` through `rectResidual`) is next, held for review.

**Comment by cameronfreer** [comment]
Tranche 2 merged as #168 (squash `da06613`): the partition-free cut norm `rectCutNorm` (new `Finite/RectKernelCutNorm`, via the `Kernel` facade) and the bridge `rectCutDiscrepancy_eq_rectCutNorm_rectResidual`. Tranche 3 next (decrement identities beside `rectIndicator`, the block-energy Cauchy–Schwarz bound, and the coefficient estimate), held for review.

**Comment by cameronfreer** [comment]
Tranche 3 merged as #169 (squash `a09dbb7`): the decrement identities beside `rectIndicator`, the block-energy Cauchy–Schwarz bound, and the coefficient estimate `abs_rectAverage_le_inv_of_lt_abs_rectSum`. Tranche 4 next, held for review: the strict-invariant greedy iteration and `kernel_frieze_kannan_cutDecomposition` in a new `Finite/RectKernelCutDecomposition` module (one statement carrying the decomposition, the residual cut-norm bound, the term count `⌈1/ε²⌉₊`, and the coefficient bound `1/ε`), with the normalized and `op` corollaries. The three worked specializations, as specified: an ordinary matrix, a weighted bipartite graph, and a signed residual, each a compiled file under `examples/`.

**Comment by cameronfreer** [comment]
Tranche 9, part 4 (the iteration, the summit `kernel_frieze_kannan_cutDecomposition`, the normalized and `op` corollaries, and three worked specializations under `examples/`) is up as #171, held for review. Neither hard stop of the design fired: the budget is `⌈1/ε²⌉₊` with no `+ 1`, and the coefficient bound needs no positive-mass or `ε ≤ 1` hypothesis. Gate on the branch head: 4067 declarations, standard axioms only.

**Comment by cameronfreer** [comment]
**Mathematical completion of tranche 9.** #171 merged as `78dbd0c`. The cut-matrix decomposition `kernel_frieze_kannan_cutDecomposition` (Finite/RectKernelCutDecomposition, via the `Kernel` facade) delivers, in one statement: at most `⌈1/ε²⌉₊` weighted rectangles inside the carriers, coefficients of absolute value at most `1/ε`, and a residual of partition-free cut norm at most `ε · mass`, under nonnegative carrier weights, `|f| ≤ 1` on the rectangle, and `0 < ε` only. Normalized and transposed forms are corollaries; three compiled specializations live under `examples/`; the design record `docs/design/cut-matrix-decomposition.md` is marked implemented and PROVENANCE no longer says the interface is missing. With #162, #167, #168, #169, and #171, every item of #71 is implemented. The gate on merged main is running; I will confirm its numbers here. Closing is the maintainer's call; the release carrying this campaign is tracked in the reader's-release issue.

**Comment by cameronfreer** [comment]
Gate on merged main (`78dbd0c`): build of all default targets including `examples/`, sorry scans, and the axiom audit passed — 4069 declarations under `RegularityLemmata`, standard axioms only.

**Comment by cameronfreer** [comment]
v0.11.0 ships the cut-matrix decomposition (`kernel_frieze_kannan_cutDecomposition`, the partition-free cut norm, the substrate, and the three worked examples): https://github.com/cameronfreer/regularity-lemmata/releases/tag/v0.11.0, release commit `756425027a9f8a3c20b477140e85a4586f69d508`. Every item of this issue is implemented and released; closing is the maintainer's call.

**Comment by cameronfreer** [comment]
Frozen scope confirmed complete and released: the rectangular weighted-kernel substrate and identities (tranches 0–4c), the cut file and the step-partition summit (tranche 5), and tranche 9's cut-matrix decomposition (#162 design; #167, #168, #169, #171), all in v0.11.0 (release commit `756425027a9f8a3c20b477140e85a4586f69d508`). Future extensions get their own issues.
